US05756531
Preparation of glyceraldehyde-O-[2-(1-(4-chlorobenzoyl)-5-methoxy-2-methylindol-3-yl)ethyl] oxime
The title compound is prepared by reaction of O-2-[1-(4-chlorobenzoyl)-5-methoxy-2-methylindol-3-yl]ethylhydroxylamine with glyceraldehyde by the method of Example 1.

reactant | O-2-[1-(4-chlorobenzoyl)-5-methoxy-2-methylindol-3-yl]ethylhydroxylamine | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CCON)C)C=C1 | C19H19ClN2O3
reactant | glyceraldehyde | O=CC(O)CO | C3H6O3
product | glyceraldehyde-O-[2-(1-(4-chlorobenzoyl)-5-methoxy-2-methylindol-3-yl)ethyl] oxime | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CCON=CC(O)CO)C)C=C1 | C22H23ClN2O5
